US07273865B2
A stirred suspension of 200 mg (0.44 mmol) 2-bromo-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide, 487 mg (4.44 mmol) azetidin-3-ol hydrochloride and 2.17 g (6.66 mmol) cesium carbonate in 6 ml N-methyl-pyrrolidone in a thick-walled glass pressure tube fitted with a teflon cap was heated at 150° C. for 6 h. The reaction mixture was then cooled to room temperature and partitioned between ethyl acetate and brine. The organic phase was dried over sodium sulfate and concentrated in vacuo. Flash chromatography (methanol/dichloromethane) followed by trituration in ether afforded 29 mg (15%) 2-(3-hydroxy-azetidin-1-yl)-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide as a brown crystalline solid. ES-MS m/e (%): 443 (M+H+, 100).

reactant | 2-bromo-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide | 0.44 mmol, 200 mg | BrC=1C=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=CN1 | C17H16BrN5O3S
reactant | azetidin-3-ol hydrochloride | 4.44 mmol, 487 mg | Cl.N1CC(C1)O
reactant | cesium carbonate | 6.66 mmol, 2.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N-methyl-pyrrolidone | 6 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(3-hydroxy-azetidin-1-yl)-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide | 29 mg, 15% | OC1CN(C1)C=1C=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=CN1 | C20H22N6O4S
